US05612340
539 mg (2.15 mmol) of 3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl-guanidine nitrate are added to a solution of 450 mg (2.15 mmol) of 3-dimethylamino-1-(4-chloro-phenyl)-2-propen-1-one in 5.5 ml of 2-propanol. After the addition of 94.5 mg (2.36 mmol) of sodium hydroxide, the reaction mixture is boiled under reflux for 29 h. After cooling to RT, the product is isolated by filtration and washed with 1-propanol and water. After drying at 60° under HV, N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(4-chloro-phenyl)-2-pyrimidineamine is obtained; Rf =0.45 (methylene chloride:methanol =98:2), MS: 397 (M+), m.p. 133°-135°.

reactant | 3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl-guanidine nitrate | 2.15 mmol, 539 mg | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
reactant | 3-dimethylamino-1-(4-chloro-phenyl)-2-propen-1-one | 2.15 mmol, 450 mg | CN(C=CC(=O)C1=CC=C(C=C1)Cl)C | C11H12ClNO
reactant | sodium hydroxide | 2.36 mmol, 94.5 mg | [OH-].[Na+]
solvent | 2-propanol | 5.5 ml | CC(C)O | C3H8O
product | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(4-chloro-phenyl)-2-pyrimidineamine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=C(C=C1)Cl)F | C18H12ClF4N3O
